US05118816
Preparation of 2-p-chlorophenyl-N-(trifluoroacetyl)-glycine
A mixture of 2-(p-chlorophenyl)glycine (37.1 g, 0.2 mol) in methanol is treated with triethylamine (20.2 g, 0.2 mol), stirred for 10 minutes, treated dropwise with ethyl trifluoroacetate (35.5 g, 0.25 mol), stirred for 4 days, diluted with methanol and treated with Dowex 50×8-100 ion exchange resin. The reaction mixture is stirred for 10 minutes and filtered. The filter cake is washed with methanol. The filtrates are combined and concentrated in vacuo to afford a yellow solid which is recrystallized from 1,2-dichloroethane to give the title compound as white crystals, 26.4 g (46.8% yield), mp 170-172° C.

reactant | 2-(p-chlorophenyl)glycine | 0.2 mol, 37.1 g | ClC1=CC=C(C=C1)C(N)C(=O)O | C8H8ClNO2
reactant | triethylamine | 0.2 mol, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | ethyl trifluoroacetate | 0.25 mol, 35.5 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | methanol | CO | CH4O
product | 2-p-chlorophenyl-N-(trifluoroacetyl)-glycine | 46.8% yield | ClC1=CC=C(C=C1)C(NC(C(F)(F)F)=O)C(=O)O | C10H7ClF3NO3
